US06013653
(+)8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one·CSA salt (100 g) was suspended in the mixture of methanol (300 ml) and deionized water (700 ml), and adjusted to pH11.5-12.5 with 24% aqueous sodium hydroxide, the crystals were collected by filtration, washed with water, and dried to obtain (+)8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one as white crystals.

reactant | (+)8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one·CSA | 100 g | CC1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CNC2C)=O.CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C
reactant | methanol | 300 ml | CO | CH4O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 700 ml | O | H2O
product | (+)8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | yield=96% | CC1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CNC2C)=O | C18H19N3O
